US08623859B2
N-{[4-({3-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]piperidin-1-yl}carbonyl)furan-2-yl]methyl}-4-methoxy-N,2,6-trimethylbenzenesulfonamide
The title compound was prepared according to general procedure AA using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (60 mg, 0.15 mmol), CDI (51 mg, 0.31 mmol), 3-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]piperidine (49 mg, 0.15 mmol) and DIPEA (0.134 mL, 0.76 mmol) in DCE (1.2 mL).

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.15 mmol, 60 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.31 mmol, 51 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]piperidine | 0.15 mmol, 49 mg | N1C(=NCC1)C1=CC=C(C=C1)C1CNCCC1 | C14H19N3
reactant | DIPEA | 0.76 mmol, 0.134 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCE | 1.2 mL | ClCCCl | C2H4Cl2
product | N-{[4-({3-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]piperidin-1-yl}carbonyl)furan-2-yl]methyl}-4-methoxy-N,2,6-trimethylbenzenesulfonamide | N1C(=NCC1)C1=CC=C(C=C1)C1CN(CCC1)C(=O)C=1C=C(OC1)CN(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)C | C30H36N4O5S
